US08648201B2
17.2 2.8 g (8.756 mmol) of 1-(4-chloro-3-nitrobenzenesulfonyl)-4-methylpiperazine are dissolved in 10 ml of 1-butanol, and 1.913 ml (17.5 mmol) of benzylamine are added. The reaction mixture is heated under reflux for 14 h. After cooling, MTBE is added, the precipitate formed is filtered off with suction and washed with MTBE and dried in vacuo, giving benzyl-[4-(4-methylpiperazine-1-sulfonyl)-2-nitrophenyl]amine; HPLC-MS [M+H]+ 391.2.

reactant | 1-(4-chloro-3-nitrobenzenesulfonyl)-4-methylpiperazine | ClC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)[N+](=O)[O-] | C11H14ClN3O4S
reactant | benzylamine | 17.5 mmol, 1.913 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
product | benzyl-[4-(4-methylpiperazine-1-sulfonyl)-2-nitrophenyl]amine | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)[N+](=O)[O-] | C18H22N4O4S
